US05886210
A 50-mL round-bottom flask was equipped with a magnetic stir bar, reflux condenser, thermometer, nitrogen inlet, and a heating mantle attached to a temperature controller. The flask was charged with 2-chloro-6-fluorobenzoic acid (8.30 g, 47.55 mmol), methanol (15 g), and concentrated sulfuric acid (1 g). The reaction mixture was heated to 60° C. for seven days, then cooled to room temperature. Ethyl ether (50 mL) was added; the reaction mixture was transferred to a separatory funnel and washed with 1M sodium hydroxide solution (3×40 mL), then with water (40 mL). The organic layer was dried over sodium sulfate. The solvent was removed by evaporation under reduced pressure and the residue was dried under vacuum to give 5.34 g of methyl 2-chloro-6-fluorobenzoate as a yellow oil.

reactant | 2-chloro-6-fluorobenzoic acid | 47.55 mmol, 8.30 g | ClC1=C(C(=O)O)C(=CC=C1)F | C7H4ClFO2
reactant | methanol | 15 g | CO | CH4O
reactant | sulfuric acid | 1 g | S(O)(O)(=O)=O | H2O4S
solvent | Ethyl ether | 50 mL | C(C)OCC | C4H10O
product | methyl 2-chloro-6-fluorobenzoate | 5.34 g | ClC1=C(C(=O)OC)C(=CC=C1)F | C8H6ClFO2
